US07527912B2
Synthesis of Dimethylphenylsulfonium Hydrogen Sulfate
6.2 g (0.05 mole) of thioanisole and 6.9 g (0.055 mole) of dimethyl sulfate were stirred for 12 hours at room temperature. 100 g of water and 50 ml of diethyl ether were added to the reaction solution whereupon the mixture separated into two layers. The aqueous layer was taken out, which was an aqueous solution of the target compound, dimethylphenylsulfonium hydrogen sulfate.

reactant | thioanisole | 0.05 mole, 6.2 g | C1(=CC=CC=C1)SC | C7H8S
reactant | dimethyl sulfate | 0.055 mole, 6.9 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 100 g | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | Dimethylphenylsulfonium Hydrogen Sulfate | S(=O)(=O)(O)[O-].C[S+](C1=CC=CC=C1)C | InChI=1S/C8H11S.H2O4S/c1-9(2)8-6-4-3-5-7-8;1-5(2,3)4/h3-7H,1-2H3;(H2,1,2,3,4)/q+1;/p-1
